US07456157B2
4-(4-benzyloxyphenylthio)-2-chlorobenzaldehyde
p-hydroxythiophenol (2.12 g) was dissolved in N,N-dimethylformamide (40 mL). To this solution, 2-chloro-4-fluorobenzaldehyde (2.66 g) and potassium carbonate (4.64 g) were added and the mixture was stirred for 2 hours at 50° C. Subsequently, benzyl bromide (4.00 mL) was added and the mixture was stirred for 1.5 hours at 50° C. and then for 2.5 hours at 70° C. The reaction mixture was extracted with ethyl acetate and the extract was washed sequentially with water and a saturated aqueous solution of sodium chloride. The organic phase was then dried over anhydrous sodium sulfate. Following addition of water, the solvent was removed by distillation and the residue was purified on a silica gel column chromatography (hexane:ethyl acetate=10:1). This gave the desired product as a colorless solid (5.70 g).

reactant | p-hydroxythiophenol | 2.12 g | OC1=CC=C(C=C1)S | C6H6OS
reactant | 2-chloro-4-fluorobenzaldehyde | 2.66 g | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | potassium carbonate | 4.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 4.00 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 4-(4-benzyloxyphenylthio)-2-chlorobenzaldehyde | 5.70 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)SC1=CC(=C(C=O)C=C1)Cl | C20H15ClO2S
